US05650428
The procedure described in Example 105 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(4-methoxycarbonylbutyl)propanamide (65.7 mg) was reacted with 3-hydroxypyridine to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-methoxycarbonylbutyl)-3-(pyridin-3-yloxy)propanamide (64.3 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(4-methoxycarbonylbutyl)propanamide | 65.7 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCC(=O)OC)COS(=O)(=O)C | C16H23ClN2O8S2
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-methoxycarbonylbutyl)-3-(pyridin-3-yloxy)propanamide | 64.3 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCC(=O)OC)COC=1C=NC=CC1 | C20H24ClN3O6S
